US09284331B2
Step 2: methyl 2-(4-cyclopropyl-1H-imidazol-1-yl)-5-oxo-4,5,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-9-carboxylate.
Example 132. A solution of methyl 2,5-dioxo-2,3,4,5,7,8-hexahydro-[1,4]diazepino[7,1-a]isoquinoline-9-carboxylate (225 mg, 0.79 mmol) in DCE (20 mL) was treated with POCl3 (0.37 mL, 3.93 mmol) and the mixture was heated to 100° C. for 1 h. The mixture was then allowed to cool to RT, and then concentrated in vacuo, and dried azeotropically with toluene. The residue obtained was taken up in DCE (40 mL) and 4-cyclopropyl-1H-imidazole (261 mg, 2.41 mmol) were added. The mixture was heated to to 100° C. for 1 h and then allowed to cool to RT, diluted with DCM and washed with a saturated aq, solution of NaHCO3. The org. layer was dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, AcOEt/MeOH 100:0 to 90:10) and crystallization in Et2O/petroleum ether gave the title compound (116 mg). UPLC-MS: MS 377.2 (M+H+); UPLC rt 0.88 min. 1H NMR (600 MHz, DMSO-d6): δ ppm 0.54-0.73 (m, 2H); 0.73-0.88 (m, 2H); 1.74-1.89 (m, 1H); 3.25 (br s, 2H); 3.67-3.82 (m, 2H); 3.88 (s, 3H); 4.25 (br s, 2H); 7.13 (s, 1H); 7.44 (s, 1H); 7.48-7.57 (m, 1H); 7.96 (d, J=7.65 Hz, 1H); 8.09 (s, 1H); 8.19 (d, J=7.91, 1H).

reactant | methyl 2,5-dioxo-2,3,4,5,7,8-hexahydro-[1,4]diazepino[7,1-a]isoquinoline-9-carboxylate | 0.79 mmol, 225 mg | O=C1NCC(N2C(C=3C=CC=C(C3CC2)C(=O)OC)=C1)=O | C15H14N2O4
reactant | POCl3 | 3.93 mmol, 0.37 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-cyclopropyl-1H-imidazole | 2.41 mmol, 261 mg | C1(CC1)C=1N=CNC1 | C6H8N2
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 2-(4-cyclopropyl-1H-imidazol-1-yl)-5-oxo-4,5,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-9-carboxylate | 116 mg | C1(CC1)C=1N=CN(C1)C1=NCC(N2C(C=3C=CC=C(C3CC2)C(=O)OC)=C1)=O | C21H20N4O3
